US07582761B2
(a) Trifluoro-methanesulfonic acid 4-tert-butyl-cyclohex-1-enyl ester
To 4-tert-butylcyclohexanone(6.24 mmol, 40 mmol, Aldrich) in THF (100 mL) was added lithiumbistrimethylsilyl amide (40 mL, 1M solution in THF, Aldrich) over a period of 30 min with stirring at −78° C. After stirring for 1 hr at −78° C., a solution of N-phenyltrifluoromethanesulfonimide (14.28 g, 40 mmol, Aldrich) in THF (100 mL) was added over a period of 30 min. The reaction mixture was stirred at −78° C. for 2 h and slowly warmed to room temperature over a period of 6 h. The reaction mixture was extracted with EtOAc, the combined organic extracts were washed with water, dried over Na2SO4 and filtered. The filtrate was evaporated and the residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to give the title compound as an oil.

reactant | 4-tert-butylcyclohexanone | 6.24 mmol | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | lithiumbistrimethylsilyl amide | 1M, 40 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-phenyltrifluoromethanesulfonimide | 40 mmol, 14.28 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Trifluoro-methanesulfonic acid 4-tert-butyl-cyclohex-1-enyl ester | C(C)(C)(C)C1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C11H17F3O3S
